Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
altered mental status, visual changes

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old man with history of NIDDM, HTN, OSA
on CPAP, GERD, who presents with altered mental status and 
visual
changes since this morning.

History is obtained by the patient, supplemented by his
girlfriend. Mr. ___ was otherwise in his usual state of health
last ___. This morning, he woke up and immediately noted 
"floaters
in his eye." He had never noticed them before. He also had a
headache on the left posterior aspect of his head, which he was
unable to further characterize other than a dull pain with
unclear onset. Denied thunderclap headache. No nausea or
vomiting. He did not notice any double vision, but later, when
was looking at his hand, he noted something "off" about the 
right
side of the field, which he described as blurriness. He thought
this went away on monocular testing, and worsened with binocular
vision. 
Per his girlfriend, she was concerned more about his mental
status, and thought he seemed "different." Normally, he is a 
high
functioning person who works in the ___ business, but
today, she noticed him repeating same questions, calling the 
same
person twice, being "spacey" and sometimes not responding to her
questions clearly. She also thought he was more emotionally
labile, and on occasion she found him crying, so thought this 
was
related to stress. 

Patient was seen in the ED prior to Neurology consultation, 
noted
to have a normal external eye and fundoscopic exam, with normal
IOP. Previously, he was seen by Neurology in ___ for right
sided headache, and had a normal CT at that time. 

 
Past Medical History:
NIDDM - well controlled on metformin only, used to be on
glipizide
HTN 
OSA, on nightly CPAP
GERD   
 
Social History:
___
Family History:
Mother with HTN, DM. Father with cardiovascular disease
(?angioplasty), HTN. No history of strokes, seizures, other
neurologic diseases in the family. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Awake, cooperative, NAD, overweight man. Cried when he
heard about stroke seen on CTA.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: overall CTAB
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Repeating questions several
times during interview. Attentive, able to name ___ backward
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects, recall impaired with ___ at 5 minutes, ___
with multiple choice/cues. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 6 to 4mm and brisk. EOMI without
nystagmus. Normal saccades. VFF: on ___ grid testing, there 
is
a field cut described as blurry vision on the right side on
bilateral monocular testing, with sparing of the macula. Visual
acuity ___ bilaterally. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    1   1
R  3  3    3    1   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred while in ED

DISCHARGE PHYSICAL EXAM:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. R homonymous hemianopsia. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
___ 05:20AM BLOOD WBC-7.7 RBC-4.54* Hgb-13.0* Hct-39.1* 
MCV-86 MCH-28.6 MCHC-33.2 RDW-12.8 RDWSD-39.7 Plt ___
___ 09:52AM BLOOD WBC-10.1* RBC-4.74 Hgb-13.4* Hct-40.8 
MCV-86 MCH-28.3 MCHC-32.8 RDW-12.8 RDWSD-40.4 Plt ___
___ 09:52AM BLOOD ___
___ 05:20AM BLOOD Glucose-187* UreaN-25* Creat-1.1 Na-137 
K-4.3 Cl-102 HCO3-23 AnGap-16
___ 09:52AM BLOOD Glucose-125* UreaN-22* Creat-1.0 Na-138 
K-4.7 Cl-99 HCO3-21* AnGap-23*
___ 06:20AM BLOOD ALT-43* AST-29 LD(LDH)-178 AlkPhos-67 
TotBili-0.6
___ 09:52AM BLOOD Lipase-38
___ 06:20AM BLOOD cTropnT-<0.01
___ 05:20AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.2
___ 06:20AM BLOOD Albumin-4.5 Calcium-8.9 Mg-1.9 
Cholest-222*
___ 09:52AM BLOOD Albumin-5.0 Calcium-9.9 Phos-3.6 Mg-1.8
___ 06:20AM BLOOD %HbA1c-5.2 eAG-103
___ 06:20AM BLOOD Triglyc-434* HDL-35 CHOL/HD-6.3 
LDLmeas-133*
___ 06:20AM BLOOD TSH-3.3
___ 09:52AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:00AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
Mr. ___ was hospitalized after being seen to have impaired 
memory recall as well as R visual field cut. He was admitted to 
Neurology for stroke workup and maintained on telemetry with no 
evidence of atrial fibrillation. He was started on aspirin and 
atorvastatin due to elevated lipid panel. He was seen on MR 
imaging to have a L PCA stroke and underwent transthoracic echo 
showing no clear underlying etiology of his stroke. Due to 
appearing clinically stable in days following acute ischemic 
stroke, patient was discharged from the hospital with plan for 
outpatient occupational therapy as well as follow up with 
Ophthalmology and Neurology. He was also arranged for ___ 
Hearts monitor to evaluate for paroxysmal atrial fibrillation. 

Transition Issues:
-Pt will need to follow up with Neurology and Ophthalmology as 
scheduled
-Pt will need to work with Occupational Therapy as outpatient to 
ensure adaptation to his visual field changes to allow for daily 
activities
-Pt will need to undergo ___ of Hearts monitor and follow up 
results w/ Cardiology
-Pt will need to continue taking Aspirin and atorvastatin and 
have his cholesterol routinely checked by his PCP

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth In evening Disp #*30 
Tablet Refills:*2 
2.  Aspirin 81 mg PO DAILY  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Lisinopril 5 mg PO DAILY  
5.  MetFORMIN (Glucophage) 1000 mg PO BID  
6.Outpatient Occupational Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of vision changes and 
memory difficulties resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
Hypertension
Diabetes
Sleep Apnea
High Cholesterol

We are changing your medications as follows:  
Please take Atorvastatin 40mg every evening. Please work with 
occupational therapy for vision changes.
Please take your other medications as prescribed.  

Please followup with Neurology, Ophthalmology, and your primary 
care physician as listed below. Please plan to wear heart 
monitor over next ___ days for evaluation of undiagnosed atrial 
fibrillation. Please call ___ for follow up appointment 
to evaluate heart monitor.
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___